US06159990
To a solution of ethylmagnesium bromide in ether (38.0 mL, 38.0 mmol) at 0° C., was added a solution of 3',4'-difluoroacetophenone (5.0 g, 32.0 mmol) in diethyl ether (35 mL). The reaction mixture was stirred at 0° C. for 1 h when TLC analysis indicated that the reaction was complete (Rf =0.3, 3:1 hexane/EtOAc). The reaction was quenched carefully by adding 38 mL of water. It was extracted with diethyl ether (2×30 mL), washed with Rochelle's salt followed by brine and the organic layer was dried over Na2SO4. The solvent was removed in vacuo after filtration and 2-(3,4-difluorophenyl)propan-2-ol was obtained as a colorless oil (crude wt.=5.4 g, 97%) which looked >90% pure by NMR. It was used in the next step without purification.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 3',4'-difluoroacetophenone | 32.0 mmol, 5.0 g | FC=1C=C(C=CC1F)C(C)=O | C8H6F2O
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | diethyl ether | 35 mL | C(C)OCC | C4H10O
solvent | ether | 38.0 mmol, 38.0 mL | CCOCC | C4H10O
product | 2-(3,4-difluorophenyl)propan-2-ol | FC=1C=C(C=CC1F)C(C)(C)O | C9H10F2O
